US06825233B2
7-Bromo-4,4-dimethyl-2-formyl-2-(3-oxo-butyl)-1-oxo- 1,2,3,4-tetrahydronaphthalene
7-Bromo-4,4-dimethyl-2-formyl-1-oxo- 1,2,3 ,4-tetrahydronaphthalene (1.0 g, 3.56 mmol) was dissoved in methylvinylketone (dist., 0.468 g, 6.7 mmol) and this mixture was cooled down to 0° C. Triethylamine (3 drops) was then added and the mixture was stirred at 0° C. for an hour and then at room temperature overnight. The reaction mixture was dissolved in ethyl ether and concentrated to give the title material (1.09 g, 87%) as a yellow oil.

reactant | 7-Bromo-4,4-dimethyl-2-formyl-1-oxo- 1,2,3 ,4-tetrahydronaphthalene | 3.56 mmol, 1.0 g | BrC1=CC=C2C(CC(C(C2=C1)=O)C=O)(C)C | C13H13BrO2
reactant | methylvinylketone | 6.7 mmol, 0.468 g | CC(=O)C=C | C4H6O
catalyst | Triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | C(C)OCC | C4H10O
product | 7-Bromo-4,4-dimethyl-2-formyl-2-(3-oxo-butyl)-1-oxo- 1,2,3,4-tetrahydronaphthalene | 1.09 g, 87% | BrC1=CC=C2C(CC(C(C2=C1)=O)(CCC(C)=O)C=O)(C)C | C17H19BrO3
